US06875771B2
3-Benzenesulfonyl-2-methylsulfanyl-pyrido[1,2-a]pyrimidin-4-one
Methyl phenylsulfonylacetate (5 g, 23.3 mmol) was mixed with carbon disulfide (1.77 g, 23.3 mmol) in anhydrous DMSO (100 ml) at room temperature. Sodium hydride (60% in mineral, 1.2 g, 48.9 mmol) was added portionwise. After stirring at room temperature for 1 hour iodomethane (6.9 g, 48.9 mmol) was added neat and stirred overnight. The reaction mixture was quenched with water and extracted with methylene chloride. The crude product was purified via flash chromatography. 670 mg of the product (˜2.1 mmol) was mixed with 2-aminopyridine (296 mg, 3.15 mmol) and K2CO3 (290 mg, 2.1 mmol) in DMF (2 ml). The reaction mixture was heated at 100° C. overnight then cooled to room temperature. The reaction mixture was diluted with methylene chloride (10 ml), washed with saturated aqueous NaCl, dried with Na2SO4 and concentrated. The product was an off white solid product, 30 mg, purified by preparative HPLC and flash chromatography.

reactant | Methyl phenylsulfonylacetate | 23.3 mmol, 5 g | C1(=CC=CC=C1)S(=O)(=O)CC(=O)OC | C9H10O4S
reactant | carbon disulfide | 23.3 mmol, 1.77 g | C(=S)=S | CS2
reactant | Sodium hydride | 48.9 mmol, 1.2 g | [H-].[Na+]
reactant | iodomethane | 48.9 mmol, 6.9 g | IC | CH3I
reactant | 2-aminopyridine | 3.15 mmol, 296 mg | NC1=NC=CC=C1 | C5H6N2
reactant | K2CO3 | 2.1 mmol, 290 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-Benzenesulfonyl-2-methylsulfanyl-pyrido[1,2-a]pyrimidin-4-one | C1(=CC=CC=C1)S(=O)(=O)C1=C(N=C2N(C1=O)C=CC=C2)SC | C15H12N2O3S2
